US07196102B2
Step 4) 1-(1-Methyl-1H-indol-4-yl)-ethanone:
The title compound was prepared by the same procedure for 1-quinolin-4-yl-ethanone from 1-(1-Methyl-1H-indol-4-yl)-ethanol (3.0 g, 17 mmol), manganese oxide (8.69 g, 100 mmol, Aldrich) and dichloromethane (50 mL). The crude title compound was obtained in form as yellow oil in 98% yield (2.9 g, 16.7 mmol).

reactant | 1-quinolin-4-yl-ethanone | N1=CC=C(C2=CC=CC=C12)C(C)=O | C11H9NO
reactant | 1-(1-Methyl-1H-indol-4-yl)-ethanol | 17 mmol, 3.0 g | CN1C=CC2=C(C=CC=C12)C(C)O | C11H13NO
catalyst | manganese oxide | 100 mmol, 8.69 g | [O-2].[Mn+2]
solvent | dichloromethane | 50 mL | ClCCl | CH2Cl2
product | 1-(1-Methyl-1H-indol-4-yl)-ethanone | CN1C=CC2=C(C=CC=C12)C(C)=O | C11H11NO
